US07166638B2
a) (βR,δR)-2(4-fluorophenyl)-β,δ-dihydroxy-5-(1-methylethyl)-3-phenyl-4-[(phenylamino)carbonyl]-1H-pyrrole-1-heptanoic acid 4-bromobutyl ester
To a solution of 1,4-dibromobutane (0.34 ml, 2.88 mmol) in N,N-dimethylformamide (10 ml) a mixture of atorvastatin calcium (0.83 g, 0.72 mmol) in N,N-dimethylformamide (10 ml) was added dropwise. The reaction mixture was stirred at room temperature for 24 h. The solution was then treated with water and diethyl ether, the organic layers were anidrified with sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography, with n-hexane/ethyl acetate 6/4 as eluent to give the title compound (0.26 g) as a white solid.

reactant | 1,4-dibromobutane | 2.88 mmol, 0.34 ml | BrCCCCBr | C4H8Br2
reactant | atorvastatin calcium | 0.72 mmol, 0.83 g | CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)[O-])O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4.CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)[O-])O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4.[Ca+2]
reactant | water | O | H2O
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | (βR,δR)-2(4-fluorophenyl)-β,δ-dihydroxy-5-(1-methylethyl)-3-phenyl-4-[(phenylamino)carbonyl]-1H-pyrrole-1-heptanoic acid 4-bromobutyl ester | 0.26 g | BrCCCCOC(C[C@@H](C[C@@H](CCN1C(=C(C(=C1C(C)C)C(=O)NC1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)F)O)O)=O | C37H42BrFN2O5
